### PR TITLE
refactor(Locallynameless): abbrev multiApp = List.foldl app

### LINKED ISSUE #784: `listFullBeta_cons_r` should rename to `listFullBeta_concat_r`
As well as `listFullBeta_cons_l`

```
lemma listFullBeta_cons_r (h : Ns ↠lβᶠ Ns') (h_lc : LC M) : (M :: Ns) ↠lβᶠ (M :: Ns') := by
  induction h with grind
```

### PR DESCRIPTION
**Pull request by lengyijun**
Replace the recursive `multiApp` definition with `List.foldl app`
 Remove the now-unnecessary `multiApp_tail` lemma and adapt proofs to `List.foldl_concat`
`grind [multiApp_tail]` => `grind`
 Make `semanticMap_saturated` use explicit `grind only`: performance consideration
New theorems : `multiapp_openRec`  `multiapp_fv` `step_multiApp_l_union` `steps_multiApp_l_union`
 Rename `listFullBeta_cons_r/l` to `listFullBeta_concat_r/l` to reflect their general concatenation 
Add specialized `cons` lemmas for reducing the head term or the tail list.

Fix #784

### CODE REVIEW

**Comment by lengyijun** [comment]
No option to allow maintainers to edit pull requests @chenson2018

**Comment by chenson2018** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/cslib/commits/a9b487344afe85e33f96cc266af229653f27b30e?reference=056cf937ecd0e0da189bc4efba9ed67d9d2477a7) for a9b487344afe85e33f96cc266af229653f27b30e against 056cf937ecd0e0da189bc4efba9ed67d9d2477a7 are in. There are significant results. @chenson2018

- 🟥 `build//instructions`: **+61.1G** (**+3.04%**)

**Large changes (1🟥)**

1 hidden

**Comment by lengyijun** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/cslib/commits/4128bf40595f2e04539e7f1c378acfa7015f1163?reference=e5ed905c3d004cdbf7ee1ed17ad7bee19abd7915) for 4128bf40595f2e04539e7f1c378acfa7015f1163 against e5ed905c3d004cdbf7ee1ed17ad7bee19abd7915 are in. No significant results found. @lengyijun

- 🟥 `build//instructions`: **+61.5G** (**+2.98%**)

**Medium changes (1🟥)**

- 1 hidden

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Stlc/StrongNorm.lean [hunk 1]
```diff
@@ -71,7 +72,12 @@ lemma semanticMap_saturated (τ : Ty Base) : @Saturated Var (semanticMap τ) :=
     · grind [sn_app_left (Var := Var) (N := fvar <| fresh {})]
     · grind
     · intro M N P _ _ _ s _
-      grind [ih₂.multiApp M N (P ++ [s]), multiApp_tail]
+      grind only [semanticMap,
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Stlc/StrongNorm.lean]: Normally a terminal `grind` is not squeezed, is there a performance consideration here? (And either way, please fix the indentation)

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/ListFullBeta.lean [hunk 2]
```diff
@@ -92,23 +82,31 @@ set_option linter.tacticAnalysis.verifyGrindOnly false in
...
-  | nil => grind only [cases Xi, multiApp]
+  | nil => cases h_red with
+            | base _ => grind
+            | appL _ _ => grind
+            | @appR _ _ M' _ h => cases h with
+              | base h => cases h
+              | @abs _ M' xs h => left
+                                  exists M'
+                                  apply Xi.abs at h
+                                  grind
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/ListFullBeta.lean]: Is there any lemma you could write to make this work a little nicer with `grind`?

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Stlc/StrongNorm.lean (hunk 1 above)
Comment (lengyijun) [reply Cslib/Languages/LambdaCalculus/LocallyNameless/Stlc/StrongNorm.lean]: Performance consideration

Comment (chenson2018) [reply Cslib/Languages/LambdaCalculus/LocallyNameless/Stlc/StrongNorm.lean]: Okay, then please just fix the formatting (fit as much one one line as possible then indent the next) and this is fine.

**Comment by lengyijun** [comment]
When formalizing "2 vars are not enough", I have proved dozens of theorems related to this file

https://github.com/lengyijun/Fokker_challenge/blob/2varsareenough_new/FokkerChallenge/EnhancedCslib/FlipApp.lean
